US07648984B2
(b) 6-({[2-({1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}thio)ethyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
1,1-dimethylethyl [2-({1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}thio)ethyl]carbamate (210 mg, 0.52 mmol) was dissolved in a minimum amount of chloroform and treated with 4N HCl in dioxane (2 mL). After stirring 2 h, the reaction mixture was concentrated to dryness and azeotroped with toluene. The resulting HCl salt of the free amine was dissolved in methanol/dichloromethane (4 mL, 1:3) and treated with triethylamine (0.36 mL, 2.6 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde (101 mg, 0.52 mmol) and stirred for 12 hours. The solution was diluted with a small amount of methanol and treated with sodium borohydride (19 mg, 0.52 mmol.) After stirring 90 minutes, the reaction mixture was diluted with chloroform and poured into saturated aqueous sodium bicarbonate solution. The aqueous layer was extracted with chloroform. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, concentrated and chromatographed in chloroform/methanol/ammonia. The resulting solid was converted to an HCl salt of the title compound as a yellow solid (85 mg, 34%): LC-MS m/z 483 (M+H)+; 1H NMR (CDCl3, 400 MHz) δ 8.27-8.31 (m, 1H), 8.18-8.22 (m, 1H), 7.82-7.86 (m, 1H), 7.35-7.41 (m, 1H), 7.16-7.19 (m, 1H), 6.89-6.94 (m, 1H), 7.39-7.42 (m, 2H), 4.2-4.27 (m, 1H), 4.14 (s, 3H), 3.84-3.98 (m, 3H), 3.69-3.75 (m, 1H), 3.55 (s, 2H), 3.42-3.50 (m, 2H), 3.16-3.26 (m, 2H), 2.55-2.63 (m, 1H), 2.18-2.22 (m, 1H).

reactant | 1,1-dimethylethyl [2-({1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}thio)ethyl]carbamate | 0.52 mmol, 210 mg | COC=1N=C2C(=CC=NC2=CC1)N1CC(CC1)SCCNC(OC(C)(C)C)=O | C20H28N4O3S
reactant | HCl | 4N | Cl | ClH
reactant | triethylamine | 2.6 mmol, 0.36 mL | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carbaldehyde | 0.52 mmol, 101 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | sodium borohydride | 0.52 mmol, 19 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 6-({[2-({1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}thio)ethyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | COC=1N=C2C(=CC=NC2=CC1)N1CC(CC1)SCCNCC=1C=CC=2SCC(NC2N1)=O | C23H26N6O2S2
